US09084794B2
i) 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(4-(quinolin-7-yl)phenyl)acetic acid
A solution of 2-(4-bromophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid (0.402 mmol) in 1,4-dioxane (2 mL) and ethanol (0.2 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.442 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.020 mmol) and 2M aq potassium carbonate (0.602 mL). The vessel was purged with nitrogen, sealed and the reaction irradiated in a Biotage Initiator microwave at 120° C. for 10 min. The resulting black solution was then diluted with water (50 mL) and brine (10 mL), and the aqueous solution was sequentially extracted with dichloromethane and tetrahydrofuran. Only the tetrahydrofuran layer contained the product. The aqueous layer was concentrated in vacuo and the resulting solid was triturated with ethanol. The ethanol solution was filtered and added to the tetrahydrofuran layer. This organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the crude material by reverse phase HPLC (10-35% acetonitrile/water with 0.1% NH4OH) afforded the title compound as a white solid (32%). MS(ES)+ m/e 472.4 [M+H]+.

reactant | 2-(4-bromophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetic acid | 0.402 mmol | BrC1=CC=C(C=C1)C(C(=O)O)N1CCC2(CN(C(CO2)=O)C2CC2)CC1 | C19H23BrN2O4
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.442 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 2M, 0.602 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 0.2 mL | C(C)O | C2H6O
catalyst | PdCl2(dppf) CH2Cl2 | 0.020 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(4-(quinolin-7-yl)phenyl)acetic acid | 32% | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)O)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C28H29N3O4
